US09399751B1
A 5-L reaction flask equipped with a reflux condenser was charged with toluene (1 L) and borontrifluride etherate (C4H10BF3O) (16 g, 0.012 mol). The reaction flask was cooled to 0° C. and 2-phenylpropanal (300 g, 2.23 mol) was added over 15 minutes. 2-Methyl-1,3-pentadiene (1.22 Kg, 4.92 mol) was added over 1 hour. During the feed, the reaction exothermed to 10° C. The reaction mixture was aged overnight and then quenched with aqueous sodium hydroxide (50%, 1 L). Vacuum distillation of the resulting mixture afforded 4,6-dimethyl-2-(1-phenyl-ethyl)-3,6-dihydro-2H-pyran (120 g) having a boiling point of 118-120° C. at 3 mmHg.

reactant | borontrifluride etherate | 0.012 mol, 16 g | B(F)(F)F.CCOCC
reactant | 2-phenylpropanal | 2.23 mol, 300 g | C1(=CC=CC=C1)C(C=O)C | C9H10O
reactant | 2-Methyl-1,3-pentadiene | 4.92 mol, 1.22 Kg | CC(=C)C=CC | C6H10
solvent | toluene | 1 L | C1(=CC=CC=C1)C | C7H8
product | 4,6-dimethyl-2-(1-phenyl-ethyl)-3,6-dihydro-2H-pyran | 120 g | CC=1CC(OC(C1)C)C(C)C1=CC=CC=C1 | C15H20O
